US07557103B2
C. 3-Bromo-7-tert-butyl-2-methyl-benzo[b]thiophene
A solution of 7-tert-butyl-2-methyl-benzo[b]thiophene 94.69 g, 23.0 mmol) in CH2Cl2 (100 mL) is cooled to 0° C. It is treated with Br2 (1.18 mL, 23.0 mmol). The resulting reaction mixture is stirred at rt overnight. It is washed with 10% Na2SO3 (2×50 mL); brine (50 mL); dried with Na2SO4, filtered and concentrated gives the title compound (4.99 g, 17.57 mmol, 76%). 1H NMR (CDCl3): δ 1.53 (s, 9H), 2.56 (s, 3H), 7.32 (dd, J=7.5, 1.3 Hz, 1H), 7.38 (t, J=7.5 Hz, 1H), 7.63 (dd, J=7.5 Hz, 1.3 Hz, 1H) ppm. ES-MS (m/z): calcd for C13H15BrS (M+1)+: 284.2. found: 284.9.

reactant | 7-tert-butyl-2-methyl-benzo[b]thiophene | 23.0 mmol, 94.69 g | C(C)(C)(C)C1=CC=CC2=C1SC(=C2)C | C13H16S
reactant | Br2 | 23.0 mmol, 1.18 mL | BrBr | Br2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-Bromo-7-tert-butyl-2-methyl-benzo[b]thiophene | 17.57 mmol, 4.99 g, 76% | BrC=1C2=C(SC1C)C(=CC=C2)C(C)(C)C | C13H15BrS
